US08304419B2
To a solution of 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(1,1-difluoroethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (59 mg, 0.098 mmol) in DCM (6 ml) was added TFA (2.0 mL) and the reaction mixture was stirred at RT for 3 hours. The reaction mixture was purified via reverse phase HPLC to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(1,1-difluoroethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide (28 mg, 0.060 mmol, 61% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.72 (s, 1H), 7.63 (s, 1H), 7.30-7.42 (m, 3H), 7.28 (s, 1H), 4.63 (s, 2H), 1.90 (t, 3H). LC-MS (ES+) m/z 469.08, [M+H].

reactant | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(1,1-difluoroethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.098 mmol, 59 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(C)(F)F)C#N)F)COCC[Si](C)(C)C | C26H27Cl2F3N4O3Si
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(1,1-difluoroethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.060 mmol, 28 mg, 61% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(C)(F)F)C#N)F | C20H13Cl2F3N4O2
